US08242104B2
A vessel was charged with 8-bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (1.00 g, 2.67 mmol, bis(neopentyl glycolato)diboron (905 mg, 4.01 mmol), potassium acetate (918 mg, 9.35 mmol) and dioxane (12 mL) before the vessel was sealed and degassed with nitrogen for 10 min. To the reaction was added PdCl2dppf.DCM (109 mg, 0.13 mmol, 5 mol %) and the reaction purged with nitrogen before being stirred at 90° C. for 65 h. The reaction mixture was cooled to RT then diluted with DCM (200 mL) and treated with activated carbon. The mixture was filtered and the filtrate was washed with water, dried (Na2SO4) and concentrated in vacuo to give 8-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (1.00 g, 2.46 mmol, 92%). LCMS RT=3.79 min, [M−HCC(CH3)2CH+H]+=340

reactant | 8-bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C16H16BrN5O
reactant | bis(neopentyl glycolato)diboron | 4.01 mmol, 905 mg | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 9.35 mmol, 918 mg | C(C)(=O)[O-].[K+]
reactant | dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 0.13 mmol, 109 mg | C(Cl)Cl | CH2Cl2
product | 8-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 2.46 mmol, 1.00 g, 92% | CC1(COB(OC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)C | C21H26BN5O3
